US06465472B1
1-Isopropyl-6,7-methylenedioxy-4-(benzoxazol-5-yl)-3,4-dihydroquinazolin-2(1H)-one
A solution of 1-isopropyl-6,7-methylenedioxy-4-(3-amino-4-hydroxyphenyl)quinazolin-2(1H)-one (93 mg) in triethyl orthoformate (3 mL) was refluxed for 1 h, cooled to rt, diluted with EtOAc (30 mL), washed with water, saturated aqueous solution of NaHCO3 and brine, dried over Na2SO4, and concentrated in vacuo to yield the title compound as a tan solid (70 mg, 71%), mp: 84-86° C. 1H NMR (CDCl3): 8.12 (s, 1H), 7.72 (s, 1H), 7.59(d, J=8.3, 2H), 7.39 (d, J=8.3, 1H), 6.71 (s, 1H), 6.28 (s, 1H), 5.92 (s, 1H), 5.90 (s, 1H), 5.49 (s, 1H), 5.14 (s, 1H), 4.45 (m, 1H), 1.58 (d, J=6.6, 3H), 1.55 (d, J=6.6, 3H).

reactant | 1-isopropyl-6,7-methylenedioxy-4-(3-amino-4-hydroxyphenyl)quinazolin-2(1H)-one | 93 mg | C(C)(C)N1C(N=C(C2=CC3=C(C=C12)OCO3)C3=CC(=C(C=C3)O)N)=O | C18H17N3O4
reactant | triethyl orthoformate | 3 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-Isopropyl-6,7-methylenedioxy-4-(benzoxazol-5-yl)-3,4-dihydroquinazolin-2(1H)-one | 70 mg, 71% | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C=3C=CC1=C(N=CO1)C3)=O | C19H17N3O4
